### PR TITLE
feat: polymorphic ranges

### PR DESCRIPTION
**Pull request by datokrat**
This PR introduces ranges that are polymorphic, in contrast to the existing `Std.Range` which only supports natural numbers.

Breakdown of core changes:

* `Lean.Parser.Basic`: Modified the number parser (`Lean.Parser.Basic`) so that it will only consider a *single* dot to be part of a decimal number. `1..` will no longer be parsed as `1.` followed by `.`, but as `1` followed by `..`.
* The test `ellipsisProjIssue` ensures that `#check Nat.add ...succ` produces a syntax error. After introducing the new range notation (see below), it returns a different (less nice) error message. I updated the test to reflect the new error message. (The error message will become nicer as soon as a delaborator for the ranges is implemented. This is out of scope for this PR.)

Breakdown of standard library changes:

Modified modules: `Init.Data.Range.Polymorphic` (added), `Init.Data.Iterators`, `Std.Data.Iterators`

* Introduced the type `Std.PRange` that is parameterized over the type in which the range operates and the shapes of the lower and upper bound.
* Introduced a new notation for ranges. Examples for this notation are: `1...*`, `1...=3`, `1...<3`, `1<...=2`, `*...=3`.
* Defined lots of typeclasses for different capabilities of ranges, depending on their shape and underlying type.
* Introduced `Iter(M).size`.
* Introduced the `Iter(M).stepSize n` combinator, which iterates over an iterator with the given step size `n`. It will drop `n - 1` values between every value it emits.
* Replaced `LawfulPureIterator` with a new and better typeclass `LawfulDeterministicIterator`.
* Simplified some lemma statements in the iterator library such as `IterM.toList_eq_match`, which unnecessarily matched over a `Subtype`, hindering rewrites due to type dependencies.

Reasons for the concrete choice of notation:

* `lean4-cli` uses `...`-based notation for the `Cmd` notation and it clashes with `...a` range notation.
* test `2461` fails when using two-dot-based notation because of the existing `{ a.. }` notation.

### CODE REVIEW

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 86eded35db40fadcd718eed738e0860b942841b1 --onto db499e96aac8ad654c8ed5ab40c4e6885d38c9a1`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-06-23 08:44:03)
- ✅ Mathlib branch [lean-pr-testing-8784](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-8784) has successfully built against this PR. (2025-06-23 10:02:06) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/15820244716)
- ✅ Mathlib branch [lean-pr-testing-8784](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-8784) has successfully built against this PR. (2025-06-23 14:01:22) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/15825290035)
- ✅ Mathlib branch [lean-pr-testing-8784](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-8784) has successfully built against this PR. (2025-06-23 22:30:02) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/15835783270)
- ❗ Batteries CI can not be attempted yet, as the `nightly-testing-2025-06-24` tag does not exist there yet. We will retry when you push more commits. If you rebase your branch onto `nightly-with-mathlib`, Batteries CI should run now. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-06-25 08:37:42)

File: src/Init/Data/Range/Polymorphic/PRange.lean [hunk 1]
```diff
@@ -0,0 +1,283 @@
...
+abbrev Bound (shape : BoundShape) (α : Type u) : Type u :=
+  match shape with
+  | .open | .closed => α
+  | .unbounded => PUnit
+
+/--
+A range of elements of some type `α`. It is characterized by its upper and lower bounds, which
+may be inclusive, exclusive or absent.
+
+* `a...=b` contains all elements between `a` and `b`, including `a`.
```
Comment (TwoFX) [inline src/Init/Data/Range/Polymorphic/PRange.lean]: I think it would be even more clear if in every line here you explained for both `a` and `b` whether they are included.

File: src/Init/Data/Range/Polymorphic/PRange.lean [hunk 2]
```diff
@@ -0,0 +1,283 @@
...
+* `a<...=b` contains all elements between `a` and `b`, excluding `a`.
+* `a...b` or `a..<b` contains all elements between `a` and `b`, excluding `b`.
+* `a<...b` or `a<..<b` contains all elements between `a` and `b`, excluding both `a` and `b`.
+* `*...=b` contains all elements below `b`, including `b`.
+* `*...b` or `*..<b` contains all elements below `b`, excluding `b`.
```
Comment (TwoFX) [inline src/Init/Data/Range/Polymorphic/PRange.lean]:
```suggestion
* `a...b` or `a...<b` contains all elements between `a` and `b`, excluding `b`.
* `a<...b` or `a<...<b` contains all elements between `a` and `b`, excluding both `a` and `b`.
* `*...=b` contains all elements below `b`, including `b`.
* `*...b` or `*...<b` contains all elements below `b`, excluding `b`.
```
...right?!

File: src/Init/Data/Range/Polymorphic/PRange.lean [hunk 3]
```diff
@@ -0,0 +1,283 @@
...
+* `a...*` contains all elements above `a`, including `a`.
```
Comment (TwoFX) [inline src/Init/Data/Range/Polymorphic/PRange.lean]: Another possibility: instead of using vague words like "between" and "above" and then clarifying after the fact, just use precise language from the start:
```suggestion
* `a...*` contains all elements greater than or equal to `a`.
```

File: src/Init/Data/Range/Polymorphic/PRange.lean [hunk 4]
```diff
@@ -0,0 +1,283 @@
...
+-/
+structure _root_.Std.PRange (shape : RangeShape) (α : Type u) where
+  /-- The lower bound of the range. -/
+  lower : Bound shape.lower α
+  /-- The upper bound of the range. -/
+  upper : Bound shape.upper α
+
+/-- `a...*` is the range of elements greater than or equal to `a`. See also `Std.PRange`. -/
+syntax:max (term "...*") : term
+/-- `*..*` is the range that is unbounded in both directions. See also `Std.PRange`. -/
```
Comment (TwoFX) [inline src/Init/Data/Range/Polymorphic/PRange.lean]: Here and multiple times below: missing dots in the docstring.

File: src/Init/Data/Range/Polymorphic/PRange.lean [hunk 5]
```diff
@@ -0,0 +1,283 @@
...
+/-- `*..=b` is the range of elements less than or equal to `b`. See also `Std.PRange`. -/
+syntax:max ("*...=" term) : term
+/--
+`a<...=b` is the range of elements greater than `a` and less than or equal to `b`.
+See also `Std.PRange`.
+-/
+syntax:max (term "<...=" term) : term
+
+/--
+doc2
```
Comment (TwoFX) [inline src/Init/Data/Range/Polymorphic/PRange.lean]: ?

File: src/Init/Data/Range/Polymorphic/UpwardEnumerable.lean [hunk 6]
```diff
@@ -0,0 +1,325 @@
...
+  applies `succ?`.
+  -/
+  succMany? (n : Nat) (a : α) : Option α := Nat.repeat (· >>= succ?) n (some a)
+
+/--
+According to `UpwardEnumerable.le`, `a` is less than or equal to `b` if `b` is `a` or a transitive
+successor of `a`.
+-/
+@[expose]
+def UpwardEnumerable.le {α : Type u} [UpwardEnumerable α] (a b : α) : Prop :=
```
Comment (TwoFX) [inline src/Init/Data/Range/Polymorphic/UpwardEnumerable.lean]:
```suggestion
def UpwardEnumerable.LE {α : Type u} [UpwardEnumerable α] (a b : α) : Prop :=
```
and similar for `LT`

File: src/Init/Data/Range/Polymorphic/UpwardEnumerable.lean [hunk 7]
```diff
@@ -0,0 +1,325 @@
...
+    UpwardEnumerable.succMany? 1 a = UpwardEnumerable.succ? a := by
+  simp [UpwardEnumerable.succMany?_succ, UpwardEnumerable.succMany?_zero]
+
+theorem UpwardEnumerable.succMany?_add [UpwardEnumerable α] [LawfulUpwardEnumerable α]
+    (m n : Nat) (a : α) :
+    UpwardEnumerable.succMany? (m + n) a =
+      (UpwardEnumerable.succMany? m a).bind (UpwardEnumerable.succMany? n ·) := by
+  induction n
+  case zero => simp [LawfulUpwardEnumerable.succMany?_zero]
+  case succ n ih=>
```
Comment (TwoFX) [inline src/Init/Data/Range/Polymorphic/UpwardEnumerable.lean]:
```suggestion
  case succ n ih =>
```

File: src/Init/Data/Range/Polymorphic/UpwardEnumerable.lean [hunk 8]
```diff
@@ -0,0 +1,325 @@
...
+    rw [← Nat.add_assoc, LawfulUpwardEnumerable.succMany?_succ, ih, Option.bind_assoc]
+    simp only [LawfulUpwardEnumerable.succMany?_succ]
+
+theorem LawfulUpwardEnumerable.succMany?_succ_eq_succ_bind_succMany
```
Comment (TwoFX) [inline src/Init/Data/Range/Polymorphic/UpwardEnumerable.lean]:
```suggestion
theorem LawfulUpwardEnumerable.succMany?_succ_eq_succ_bind_succMany?
```

File: src/Init/Data/Range/Polymorphic/UpwardEnumerable.lean [hunk 9]
```diff
@@ -0,0 +1,325 @@
...
+  -/
+  lt_iff (a b : α) : a < b ↔ UpwardEnumerable.lt a b
+
+/--
+This typeclass ensures that an `UpwardEnumerable α` instance is compatible with a `Least? α`
+instance. For nonempty `α`, it ensures that `least?` has a value and that every other value is
+a transitive successor of it.
+-/
+class LawfulUpwardEnumerableLeast? (α : Type u) [UpwardEnumerable α] [Least? α] where
+  /--For nonempty `α`, `least?` has a value and every other value is a transitive successor of it. -/
```
Comment (TwoFX) [inline src/Init/Data/Range/Polymorphic/UpwardEnumerable.lean]:
```suggestion
  /-- For nonempty `α`, `least?` has a value and every other value is a transitive successor of it. -/
```

File: src/Init/Data/Range/Polymorphic/PRange.lean [hunk 10]
```diff
@@ -0,0 +1,283 @@
...
+
+class LawfulOpenUpperBound (α : Type w) [SupportsUpperBound .open α]
+    [UpwardEnumerable α] where
+  isSatisfied_iff_le (u : Bound .open α) (a : α) :
+    SupportsUpperBound.IsSatisfied u a ↔ UpwardEnumerable.lt a u
+
+class LawfulUnboundedUpperBound (α : Type w) [SupportsUpperBound .unbounded α]
+    [UpwardEnumerable α] where
+  isSatisfied (u : Bound .unbounded α) (a : α) :
+    SupportsUpperBound.IsSatisfied u a
```
Comment (TwoFX) [inline src/Init/Data/Range/Polymorphic/PRange.lean]: Docstrings?

File: src/Init/Data/Range/Polymorphic/RangeIterator.lean [hunk 11]
```diff
@@ -0,0 +1,349 @@
...
+              exact ⟨rfl, rfl⟩
+            · apply ih
+          · have := hout.imp (fun h => LawfulUpwardEnumerableUpperBound.isSatisfied_of_le _ _ _ h hle)
+            simp only [this, ↓reduceIte]
+            simp only [this, ↓reduceIte] at ih
+            apply IterM.IsPlausibleNthOutputStep.done
+            simp [Monadic.isPlausibleStep_iff, Monadic.step, heq', hout])⟩
+
+instance RangeIterator.instLawfulDeterministicIterator {su} [UpwardEnumerable α] [SupportsUpperBound su α]
+    : LawfulDeterministicIterator (RangeIterator su α) Id where
```
Comment (TwoFX) [inline src/Init/Data/Range/Polymorphic/RangeIterator.lean]: Colon should be at the end of the line.

File: src/Std/Data/Iterators/Combinators/Monadic/StepSize.lean [hunk 12]
```diff
@@ -0,0 +1,164 @@
...
+    case done => cases h'
+    case yield hp ih => exact ih h'
+    case skip ih  => exact ih h'
+
+instance Types.StepSizeIterator.instProductive [Iterator α m β] [IteratorAccess α m] [Monad m]
+    [Productive α m] : Productive (Types.StepSizeIterator α m β) m :=
+  .of_productivenessRelation instProductivenessRelation
+
+/--
+Produces an iterator that elits one value of `it`, then drops `n - 1` elements, then emits another
```
Comment (TwoFX) [inline src/Std/Data/Iterators/Combinators/Monadic/StepSize.lean]:
```suggestion
Produces an iterator that emits one value of `it`, then drops `n - 1` elements, then emits another
```

File: src/Std/Data/Iterators/Lemmas/Producers/Range.lean [hunk 13]
```diff
@@ -0,0 +1,17 @@
...
+Copyright (c) 2025 Lean FRO, LLC. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Paul Reichert
+-/
+prelude
+import Std.Data.Iterators.Producers.Range
+
+namespace Std.PRange
+
+theorem toList_iter_eq_toList [UpwardEnumerable α] [BoundedUpwardEnumerable sl α]
```
Comment (TwoFX) [inline src/Std/Data/Iterators/Lemmas/Producers/Range.lean:12]: Would this be a good `simp` lemma?
